US07838675B2
i) (4R)-4-(ethoxymethyl)-2,2-dimethyl-1,3-dioxolane
To a solution of 2,2-dimethyl-1,3-dioxolane-4-methanol (1.5 g), in dimethylfomylamide (30 mL), 60% sodium hydride (0.50 g) was added portion-wise at 0° C. then warmed to ambient temperature. Iodoethane (3.5 mL) was added to the mixture at 0° C. then stirred for 16 h at room temperature. The reaction mixture was filtered then the filtrate was diluted with H2O and extracted with EtOAc. The organic layer was washed with H2O (×2) then brine and dried (MgSO4), filtered and evaporated. Purification was by column chromatography on silica gel using EtOAc/Et2O (1:1) as eluent to give the subtitle compound as clear, colourless oil. Yield: 1 g

reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 1.5 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | Iodoethane | 3.5 mL | ICC | C2H5I
product | (4R)-4-(ethoxymethyl)-2,2-dimethyl-1,3-dioxolane | C(C)OC[C@H]1OC(OC1)(C)C | C8H16O3
